US05272171
1.4-Dihydroxy-2,6-dimethylbenzene (XIa)
A solution of 2,6-dimethyl-1,4-benzoquinone (Xa) (5.66 g, 42 mmol, Aldrich) in Et2O (200 mL) was shaken vigorously in a separatory funnel with two 200 mL portions of aqueous sodium hydrosulfite solution (sodium dithionite, Na2S2O4, 14.5 g, 83.3 mmol) until the Et2O layer turned bright yellow. The ether layer was washed with brine (200 mL×2), dried (MgSO4) and concentrated in vacuo to obtain 4.865 g (35.3 mmol, Y: 83.9%) of the title compound as a white solid; mp, 148-150° C. (acetone-hexane) [mp reported by L. A. Carpino, S. A. Triolo, and R. A. Berglund in J. Org. Chem., 54, p. 3303 (1989): 145-148° C.]; Rf: 0.47 (10% EtOAc in CH2Cl2); IR(KBr) 3312 cm-1 (OH); 1H-NMR (300 MHz, acetone-d6) δ ppm: 2.15 (6H, s, Me), 6.45 (2H, s, Ar-H), 6.58 (1H, s, OH), 7.47 (1H, s, OH); 13C-NMR (75 MHz, acetone-d6) δ ppm: 16.84, 116.00, 126.45, 147.46, 151.54; MS (isobutane-DCI) m/e: 139 (MH+).

reactant | 2,6-dimethyl-1,4-benzoquinone | 42 mmol, 5.66 g | CC=1C(C(=CC(C1)=O)C)=O | C8H8O2
reactant | sodium hydrosulfite | 83.3 mmol, 14.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 1.4-Dihydroxy-2,6-dimethylbenzene | OC1=C(C=C(C=C1C)O)C | C8H10O2
